US07414061B2
{3-(4-Fluoro-phenyl)-4-[1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazol-5-yl}-methanol
As described for Example 140, 3-(4-fluoro-phenyl)-5-methoxymethyl-4-[1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazole (417 mg, 1.13 mmol), instead of 1-(4-{4-[3-(4-fluoro-phenyl)-5-methoxymethyl-isoxazol-4-yl]-imidazol-1-yl}-phenyl)-ethanone, was converted to the title compound (460 mg, 95%) which was obtained as yellow solid. MS: m/e=403.9 [M+H]+.

reactant | 3-(4-fluoro-phenyl)-5-methoxymethyl-4-[1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazole | 1.13 mmol, 417 mg | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)C(F)(F)F)COC | C21H15F4N3O2
reactant | 1-(4-{4-[3-(4-fluoro-phenyl)-5-methoxymethyl-isoxazol-4-yl]-imidazol-1-yl}-phenyl)-ethanone | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)C(C)=O)COC | C22H18FN3O3
product | {3-(4-Fluoro-phenyl)-4-[1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazol-5-yl}-methanol | 460 mg, 95% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)C(F)(F)F)CO | C20H13F4N3O2
